US08183264B2
2,6-Diamino-nicotinic acid N'-(2-(4-benzyloxy-phenyl)-acetyl)-hydrazide
To a solution of DMF (1 mL) of (4-benzyloxy-phenyl)-acetic acid hydrazide (46 mg) described in Manufacturing Example 8-1 were added triethylamine (0.10 mL), 2,6-diamino-nicotinic acid (30 mg) described in Manufacturing Example 10-2-4, HOBt (27 mg), and WSC (41 mg), which was stirred overnight at the same temperature. Water was added to the reaction solution, and the precipitated solids were filtered off to obtain the titled compound (47 mg) as a crude form. This compound was used directly as a crude form in the subsequent reaction.

reactant | (4-benzyloxy-phenyl)-acetic acid hydrazide | 46 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NN | C15H16N2O2
reactant | 2,6-diamino-nicotinic acid | 30 mg | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
reactant | HOBt | 27 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 41 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | Water | O | H2O
solvent | triethylamine | 0.10 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2,6-Diamino-nicotinic acid N'-(2-(4-benzyloxy-phenyl)-acetyl)-hydrazide | 47 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)NNC(C1=C(N=C(C=C1)N)N)=O | C21H21N5O3
